US05512588
A suspension of 4-(5-acetylaminomethylfuran-2-yl)-2-thioureidothiazole (12.6 g) and methyl iodide (7.2 g) in methanol (200 ml) was refluxed for 5.5 hours. The solvent was removed under reduced pressure. The residue was washed with ethyl acetate to afford 4-(5-acetylaminomethylfuran-2-yl)-2-(2-methylisothioureido)thiazole hydriodide (15.7 g).

reactant | 4-(5-acetylaminomethylfuran-2-yl)-2-thioureidothiazole | 12.6 g | C(C)(=O)NCC1=CC=C(O1)C=1N=C(SC1)NC(=S)N | C11H12N4O2S2
reactant | methyl iodide | 7.2 g | CI | CH3I
solvent | methanol | 200 ml | CO | CH4O
product | 4-(5-acetylaminomethylfuran-2-yl)-2-(2-methylisothioureido)thiazole hydriodide | 15.7 g | I.C(C)(=O)NCC1=CC=C(O1)C=1N=C(SC1)NC(SC)=N | InChI=1S/C12H14N4O2S2.HI/c1-7(17)14-5-8-3-4-10(18-8)9-6-20-12(15-9)16-11(13)19-2;/h3-4,6H,5H2,1-2H3,(H,14,17)(H2,13,15,16);1H
